US07067540B2
1-benzyl-3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one
To a degassed cold solution of DMF (10 mL) and PPh3 (resin, 0.93 g, 2.75 mmol) was added DEAD (0.44 mL, 2.75 mmol). The reaction mixture stirred at −10° C. for 20 minutes under nitrogen. A solution of 1-benzyl-3-bromo-4-hydroxy-6-methylpyridin-2(1H)-one (0.62 g, 2.1 mmol) and 2,4-difluorobenzylalcohol (0.283 mL, 2.5 mmol) in DMF (10 mL) was added to the resin suspension. The reaction mixture stirred at −10° C. for 30 minutes and then allowed to stir at room temperature for 1 hour. The resin was filtered and rinsed with fresh MeOH and the filtrate was concentrated. The residue was dissolved in ethyl acetate and purified by flash column chromatography (ethyl acetate/hexane 1:1 v/v). The appropriate fractions were concentrated. 1H-NMR (CD3OD, 400 MHz) δ 7.62 (m, 1H), 7.31 (m, 3H), 7.1 (d, 2H, J=7.2 Hz), 7.02 (t, 2H, J=8.6 Hz), 6.48 (s, 1H), 5.42 (s, 2H), 5.28 (s, 2H), 2.34 (s, 3H); ES-HRMS m/z 420.0399/422.0380 (M+H calculated for C20H17NO2F2Br requires 420.0405/422.0387).

reactant | PPh3 | 2.75 mmol, 0.93 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 2.75 mmol, 0.44 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-benzyl-3-bromo-4-hydroxy-6-methylpyridin-2(1H)-one | 2.1 mmol, 0.62 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1C)O)Br)=O | C13H12BrNO2
reactant | 2,4-difluorobenzylalcohol | 2.5 mmol, 0.283 mL | FC1=C(CO)C=CC(=C1)F | C7H6F2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | C(C1=CC=CC=C1)N1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Br)=O | C20H16BrF2NO2
